US07157488B2
4-Fluoro-1-methyl-3-phenoxybenzene
Add triethylamine (28.6 mL, 205 mmol) dropwise to a mixture of 2-fluoro-5-methylphenol (5.18 g, 41.1 mmol), copper(II) acetate (7.46 g, 41.1 mmol), phenylboronic acid (10.0 g, 82.1 mmol), powdered 4 Å sieves (7 g), and methylene chloride (400 mL). Stir at ambient temperature. After 22 h, filter and concentrate the filtrate. Purify the residue by silica gel chromatography (50% methylene chloride/hexanes), concentrate and purify again by silica gel chromatography (100% hexanes) to give 2.4 g (29%) of the title compound: MS(m/e): 202 (M+).

reactant | triethylamine | 205 mmol, 28.6 mL | C(C)N(CC)CC | C6H15N
reactant | 2-fluoro-5-methylphenol | 41.1 mmol, 5.18 g | FC1=C(C=C(C=C1)C)O | C7H7FO
reactant | phenylboronic acid | 82.1 mmol, 10.0 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
catalyst | copper(II) acetate | 41.1 mmol, 7.46 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
product | 4-Fluoro-1-methyl-3-phenoxybenzene | 2.4 g, 29% | FC1=C(C=C(C=C1)C)OC1=CC=CC=C1 | C13H11FO
